US08222416B2
A mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (270 mg, 0.47 mmol) and a solution of tetrabutylammonium fluoride in tetrahydrofuran (1 M, 9.4 mL, 9.4 mmol) was stirred for 12 h at room temperature. The mixture was poured into brine (15 mL), extracted with ethyl acetate (2×50 mL), washed with a saturated aqueous ammonium chloride solution (3×20 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (190 mg, 93%) as a solid which was used in the next step without purification: LC/MS m/e calcd for C22H21F3N2O2S [M+H]+ 435.48, observed 434.8.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 0.47 mmol, 270 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C28H25F3N2O4S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 9.4 mmol, 1 M, 9.4 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 190 mg, 93% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(F)(F)F)N1 | C22H21F3N2O2S
